US07989644B2
1b) 2,8-Bis-((E)-styryl)-dibenzofuran
Tetrethylamine hydroxide (13.6 g, 18.4 mmol), tetrakis(triphenylphosphine)palladium(0) (142 mg) and trans-2-phenylvinylboronic acid (2.3 g, 15.3 mmol) are added to a solution of the product from example 1a) (2.00 g, 6.14 mmol) in N,N′-Dimethylacetamide (DMA) (30 ml). The mixture is then stirred at 110° C. for 24 hours. The reaction mixture is cooled to room temperature and poured into H2O. A gray crude product is obtained after filtration and washing with n-hexane. The crude product is purified by silicagel column chromatography with CH2Cl2, which result in a white solid (71% yield, mp.: 226° C.).

reactant | hydroxide | 18.4 mmol, 13.6 g | [OH-]
reactant | trans-2-phenylvinylboronic acid | 15.3 mmol, 2.3 g | C1(=CC=CC=C1)/C=C/B(O)O | C8H9BO2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 142 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | O | H2O
product | 2,8-Bis-((E)-styryl)-dibenzofuran | 71% yield | C(=C\C1=CC=CC=C1)/C1=CC2=C(OC3=C2C=C(C=C3)\C=C\C3=CC=CC=C3)C=C1 | C28H20O
